US08440681B2
The mixture ethyl 3-amino-1H-pyrazole-4-carboxylate (80 mg, 0.50 mmol), 2,4,5-trichloropyrimidine (57 μL, 0.5 mmol), and sodium carbonate (53 mg, 0.5 mmol) in 3 mL of EtOH is heated at 40° C. over night. The precipitate is filtered, washed by cold EtOH, and dried in vacuo to afford ethyl 3-(2,5-dichloropyrimidin-4-ylamino)-1H-pyrazole-4-carboxylate; ESMS m/z 302.0 (M+H+).

reactant | ethyl 3-amino-1H-pyrazole-4-carboxylate | 0.50 mmol, 80 mg | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | 2,4,5-trichloropyrimidine | 0.5 mmol, 57 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 0.5 mmol, 53 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | ethyl 3-(2,5-dichloropyrimidin-4-ylamino)-1H-pyrazole-4-carboxylate | ClC1=NC=C(C(=N1)NC1=NNC=C1C(=O)OCC)Cl | C10H9Cl2N5O2
